US04192871
11β-Chloroacetoxy-5α-pregn-2-en-20-one
A mixture of 11β-hydroxy-5α-pregn-2-en-20-one (8.7 g), calcium carbonate (11 g) and chloroacetic anhydride (13.85 g) in dioxan (260 ml) containing pyridine (8.7 ml) and 4-dimethylaminopyridine (348 mg) was stirred at room temperature for 18 hours. The mixture was poured into 2N-hydrochloric acid and extracted into ethyl acetate. The washed and dried extract was evaporated in vacuo and the oily residue was crystallised from ether and then ethyl acetate-petroleum ether to afford the title compound, m.p. 145°-147°, [α]D +123.6° (8.7 g).

reactant | 11β-hydroxy-5α-pregn-2-en-20-one | 8.7 g | O[C@@H]1[C@@H]2[C@]3(CC=CC[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)C | C21H32O2
reactant | calcium carbonate | 11 g | C([O-])([O-])=O.[Ca+2]
reactant | chloroacetic anhydride | 13.85 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 260 ml | O1CCOCC1 | C4H8O2
catalyst | 4-dimethylaminopyridine | 348 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 8.7 ml | N1=CC=CC=C1 | C5H5N
product | 11β-Chloroacetoxy-5α-pregn-2-en-20-one | ClCC(=O)O[C@@H]1[C@@H]2[C@]3(CC=CC[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)C | C23H33ClO3
